US07256307B2
(i) N-(2,4-Difluorobenzyl)heptanamide
To a solution of 2,4-difluorbenzylamine (0.43 g, 3.0 mmol) in methylene chloride (30 mL) were added heptanoic acid (0.39 g, 3.0 mmol) and DMAP (0.37 g, 3.0 mmol) followed by 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.58 g, 3.0 mmol) and the reaction mixture was stirred at room temperature overnight. The mixture was diluted with methylene chloride (100 mL), and the organic phase was washed with 5% HCl (3×75 mL), aqueous NaHCO3 (75 mL) and brine (75 mL), and dried over Na2SO4. Concentration in vacuo afforded 0.63 g (82%) of a yellow oil.

reactant | 2,4-difluorbenzylamine | 3.0 mmol, 0.43 g | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | heptanoic acid | 3.0 mmol, 0.39 g | C(CCCCCC)(=O)O | C7H14O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.0 mmol, 0.58 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3.0 mmol, 0.37 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2,4-Difluorobenzyl)heptanamide | 0.63 g, 82% | FC1=C(CNC(CCCCCC)=O)C=CC(=C1)F | C14H19F2NO
